US07189851B2
Ethyl (9aR)-4-(4-{[(2-furylmethyl)amino]carbonyl}phenyl)-2-[2-(4-methoxyphenyl)ethyl]-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizine-3-carboxylate
Polymer-bound tert-butyl (3-oxopropanoyl)-1-pyrrolidinecarboxylate (0.5 g, 0.25 meq/g, 0.44 mmol) was suspended in 5 mL anhydrous DMF and 4-formylbenzoic 0.75 g, 4.9 mmol) was added followed by piperidine (0.1 mL), and trimethyl orthoformate (0.32 mL). After 5 h at 65° C., the resin was filtered and washed as above and resuspended in 5 mL fresh DMF. Ethyl (2Z)-3-amino-5-(4-methoxyphenyl)-2-pentenoate (0.60 g, 2.5 mmol) was added followed by trimethyl orthoformate (0.32 mL) and the sealed reaction mixture was heated at 80° C. for 16 h. The resin was filtered and washed as before. The resin was suspended in dimethylacetamide (5 mL) and ceric ammonium nitrate (0.65 g, 1.2 mmol) was added. The orange suspension was shaken at room temperature for 30 min then filtered and washed as before. The resin was dried overnight at 30° C. under high vacuum. The resin was suspended in 3 mL DMF and 1 mL pyridine. Pentafluorophenyl trifluoroacetate (0.61 g, 2.2 mmol, 0.4 mL) was added and the sealed reaction tube was shaken at room temperature for 45 min, filtered and washed as above and dried under high vacuum overnight. Half of the resin was suspended in DCM (2.5 mL) and DMAP (25 mg) and 2-furfurylamine (0.107 g, 1.1 mmol, 0.12 mL) were added and the reaction mixture was shaken at room temperature for 4 h. The resin was filtered and washed as before. The resin was suspended in 1 mL TFA:DCM:phenol: thioanisole (70:20:5:5) and shaken for 3 h, filtered and washed. The resin was shaken in 2 mL 5% TEA in DCM for 36 h. The resin was filtered into a collection flask and rinsed with additional DCM (3×). The filtrate was concentrated and the product was purified by preparative thin-layer chromatography (SiO2, EtOAc) to give the title compound as white solid (6.3 mg, 0.010 mmol, 74%): mp=136—136° C. 1H NMR (400 MHz, CDCl3) δ 7.83 (d, J=8.4 Hz, 2H), 7.46 (d, J=8.4 Hz, 2H), 7.39 (d, J=1.3 Hz, 1H), 7.14 (d, J=8.6 Hz, 2H), 6.83 (d, J=8.6 Hz, 2H), 6.48 (t, J=5.3 Hz, 1H), 6.36 (d, J=3.1 Hz, 1H), 6.31 (d, J=3.1 Hz, 1H), 4.74 (dd, J=10.4, 6.2 Hz, 1H), 4.65 (d, J=5.3, 2H), 4.02 (m, 2H), 3.79 (s, 3H), 3.71 (m, 1H), 3.38 (m, 1H), 3.18 (m, 2H), 3.06 (m, 2H), 4.50 (m, 1H), 2.33 (m, 2H), 1.39 (m, 1H), 0.94 (t, J=7.2 Hz, 3H) ppm. ESMS m/z 580 (MH)+. Anal. calcd. For C34H33N3O6.½C6H14: C, 71.36; H, 6.47; N, 6.75. Found: C, 71.01; H, 6.37; N, 6.56.

reactant | tert-butyl (3-oxopropanoyl)-1-pyrrolidinecarboxylate | 0.44 mmol, 0.5 g | O=CCC(=O)C1N(CCC1)C(=O)OC(C)(C)C | C12H19NO4
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
reactant | trimethyl orthoformate | 0.32 mL | C(OC)(OC)OC | C4H10O3
reactant | Ethyl (2Z)-3-amino-5-(4-methoxyphenyl)-2-pentenoate | 2.5 mmol, 0.60 g | N\C(=C/C(=O)OCC)\CCC1=CC=C(C=C1)OC | C14H19NO3
reactant | trimethyl orthoformate | 0.32 mL | C(OC)(OC)OC | C4H10O3
reactant | Pentafluorophenyl trifluoroacetate | 2.2 mmol, 0.4 mL, 0.61 g | FC(C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)(F)F | C8F8O2
reactant | 2-furfurylamine | 1.1 mmol, 0.12 mL, 0.107 g | C1=COC(=C1)CN | C5H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 25 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | Ethyl (9aR)-4-(4-{[(2-furylmethyl)amino]carbonyl}phenyl)-2-[2-(4-methoxyphenyl)ethyl]-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizine-3-carboxylate | 0.010 mmol, 6.3 mg, 74% | O1C(=CC=C1)CNC(=O)C1=CC=C(C=C1)C1=C(C(=NC2=C1C(N1CCC[C@H]21)=O)CCC2=CC=C(C=C2)OC)C(=O)OCC | C34H33N3O6
